US06699910B2
Under N2 atmosphere, 3,4-dihydro-2H-pyran (8.19 g, 98 mmol) was added drop-wise to a stirred solution of 5-bromo-2-methyl-2-phenyl-pentan-1-ol (20 g, 78 mmol) at −5° C. The reaction mixture was allowed to warm to rt and stirred for 5 h. The solution was filtered through aluminum oxide (100 g), which was washed with CH2Cl2 (500 mL). The filtrate was concentrated in vacuo to furnish 2-(5-bromo-2-methyl-2-phenyl-pentyloxy)-tetrahydropyran (25.23 g, 96.2%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 7.26-7.08 (m, 5H), 4.45 (m, 1H), 3.72 (m, 1H), 3.58 (m, 1H), 3.35-3.05 (m, 2H), 3.28 (t, J=6.6, 2H), 1.95-1.39 (m, 10H), 1.25 (s, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 145.37, 128.14, 126.51, 126.03, 99.06, 98.92, 61.91, 61.80, 41.82, 41.74, 37.58, 37.43, 34.65, 30.61, 27.88, 25.58, 23.03, 22.89, 19.39, 19.32. HRMS (HR, LSIMS, nba): Calcd. for C17H26O2Br (MH+): 341.1116, found: 341.1127.

reactant | 3,4-dihydro-2H-pyran | 98 mmol, 8.19 g | O1CCCC=C1 | C5H8O
reactant | 5-bromo-2-methyl-2-phenyl-pentan-1-ol | 78 mmol, 20 g | BrCCCC(CO)(C1=CC=CC=C1)C | C12H17BrO
product | 2-(5-bromo-2-methyl-2-phenyl-pentyloxy)-tetrahydropyran | 25.23 g, 96.2% | BrCCCC(COC1OCCCC1)(C1=CC=CC=C1)C | C17H25BrO2
